US07411072B2
N-[6-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyrazin-2-yl]-methanesulfonamide
Mix 6-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyrazin-2-ylamine (35 mg, 0.117 mmol), triethylamine (34 μL, 0.234 mmol), N,N-dimethylaminopyridine (2 mg, 0.018 mmol), and methanesulfonyl chloride (10 μL, 0.123 mmol) in CH2Cl2 (2 mL). Stir at room temperature overnight and add 150 μL triethylamine and 40 μL methanesulfonyl chloride. Stir at room temperature for 6 h and add 1.00N aqueous HCl (1 mL). Load mixture onto a Varian ChemElut CE1005 solid-phase extraction cartridge, then elute, collect, and concentrate 45 mL CH2Cl2. Dissolve crude product in THF (5 mL), add 1.0M tetrabutylammonium fluoride (0.30 mL), and heat to reflux for 1 h. Cool to room temperature and dilute with H2O and brine. Extract into ethyl acetate, dry (MgSO4) and concentrate organics. Chromatograph on silica gel (4 g), eluting with 20%→35% ethyl acetate/hexanes to afford 19 mg (43%) of the title compound as a white solid. MS (ES) 378 (M+H), 376 (M−H); HPLC shows 100% purity.

reactant | 6-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyrazin-2-ylamine | 0.117 mmol, 35 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CN=CC(=N3)N | C20H17N3
reactant | triethylamine | 0.234 mmol, 34 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.123 mmol, 10 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 40 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1.00N, 1 mL | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyrazin-2-yl]-methanesulfonamide | 19 mg, 43% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CN=CC(=N3)NS(=O)(=O)C | C21H19N3O2S
